US06046214
A solution of 3-chloroperoxybenzoic acid (0.9 g, 5.2 mmol), tert-butyl 3-((1R,2S,5R)-2-isopropyl-5-methyl-1-cyclohexyloxy)acetoxymethyl-1,2,3,6-tetrahydropyridine-1-carboxylate (0.5 g, 1.2 mmol), and methylene chloride (150 ml) was stirred at room temperature for 20 h. An extra portion of 3-chloroperoxybenzoic acid (1.1 eq) was added and the mixture refluxed for 2h. The reaction mixture was extracted with 1M sodium hydroxide and water, dried over magnesium sulphate and evaporated to dryness in vacuo. The residue was purified on a silica gel column (Eluent: heptane/ethyl acetate (5/1)) to give tert-butyl 3-((1R,2S,5R) 2-isopropyl-5-methyl-1-cyclohexyloxy)acetoxymethyl-4,5-epoxypiperidine-1-carboxylate as an oil (Yield: 0.34 g, 66%).

reactant | 3-chloroperoxybenzoic acid | 5.2 mmol, 0.9 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | tert-butyl 3-((1R,2S,5R)-2-isopropyl-5-methyl-1-cyclohexyloxy)acetoxymethyl-1,2,3,6-tetrahydropyridine-1-carboxylate | 1.2 mmol, 0.5 g | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OCC(=O)OCC1CN(CC=C1)C(=O)OC(C)(C)C | C23H39NO5
reactant | 3-chloroperoxybenzoic acid | 1.1 eq | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-((1R,2S,5R) 2-isopropyl-5-methyl-1-cyclohexyloxy)acetoxymethyl-4,5-epoxypiperidine-1-carboxylate | Yield: 0.34 g, 66% | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OCC(=O)OCC1CN(CC2C1O2)C(=O)OC(C)(C)C | C23H39NO6
